US08357711B2
4-(Benzylthio)-3-fluorobenzoic acid
3,4-Difluorobenzoic acid (964 mg, 6.1 mmol, 1 eq), cesium carbonate (3.97 g, 12.1 mmol, 2 eq) and benzyl mercaptan (763 mg, 6.14 mmol, 1 eq) were combined in dimethyl sulphoxide (5 ml) and the reaction mixture heated at 75° C. for 4 hours. The reaction mixture was poured into ethyl acetate (10 ml) then extracted into water (10 ml). The aqueous phase was acidified with 2M HCl, extracted into ethyl acetate (10 ml), dried over sodium sulphate, filtered and evaporated to yield the title compound as a white solid (1.53 g, 5.83 mmol, 95%).

reactant | 3,4-Difluorobenzoic acid | 6.1 mmol, 964 mg, 1 eq | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
reactant | cesium carbonate | 12.1 mmol, 3.97 g, 2 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl mercaptan | 6.14 mmol, 763 mg, 1 eq | C(C1=CC=CC=C1)S | C7H8S
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulphoxide | 5 ml | CS(=O)C | C2H6OS
product | 4-(Benzylthio)-3-fluorobenzoic acid | 5.83 mmol, 1.53 g, 95% | C(C1=CC=CC=C1)SC1=C(C=C(C(=O)O)C=C1)F | C14H11FO2S
